US09428503B2
8-[6-(3-Dimethylaminopropoxy)pyridin-3-yl]-1-(cis-3-methoxycyclobutyl)-3-methylimidazo[4,5-c]quinolin-2-one
Pd(Ph3P)4 (2.074 g, 1.79 mmol) was added to a mixture of 8-bromo-1-(cis-3-methoxycyclobutyl)-3-methylimidazo[4,5-c]quinolin-2-one (13 g, 35.89 mmol), N,N-dimethyl-3-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]oxypropan-1-amine (13.15 g, 43.07 mmol) and cesium carbonate (23.39 g, 71.78 mmol) in 1,4-dioxane (200 mL) and water (40 mL) under nitrogen. The resulting mixture was stirred at 90° C. for 3 h before being allowed to cool. The reaction mixture was concentrated and diluted with EtOAc (750 mL), and washed sequentially with water (2×150 mL), and sat. brine (150 mL). The organic layer was dried over Na2SO4, filtered and evaporated to afford crude product. The crude product was purified by FCC, elation gradient 0 to 10% MeOH in DCM, to afford the desired material (12.50 g, 75%) as a white solid. NMR Spectrum: 1H NMR (400 MHz, DMSO-d6) δ 1.90 (2H, q), 2.16 (6H, s), 2.37 (2H, t), 2.72-2.92 (2H, m), 3.01 (2H, d), 3.21 (3H, s), 3.50 (3H, s), 3.79-3.95 (1H, m), 4.37 (2H, t), 5.12 (1H, t), 6.97 (1H, d), 7.82-7.98 (1H, m), 8.11 (1H, d), 8.19 (2H, dd), 8.42 (1H, s), 8.67 (1H, d), 8.87 (1H, s). Mass Spectrum: m/z (ES+)[M+H]+=462.

reactant | 8-bromo-1-(cis-3-methoxycyclobutyl)-3-methylimidazo[4,5-c]quinolin-2-one | 35.89 mmol, 13 g | BrC1=CC=2C3=C(C=NC2C=C1)N(C(N3[C@@H]3C[C@@H](C3)OC)=O)C | C16H16BrN3O2
reactant | N,N-dimethyl-3-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]oxypropan-1-amine | 43.07 mmol, 13.15 g | CN(CCCOC1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C | C16H27BN2O3
reactant | cesium carbonate | 71.78 mmol, 23.39 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 200 mL | O1CCOCC1 | C4H8O2
solvent | water | 40 mL | O | H2O
catalyst | Pd(Ph3P)4 | 1.79 mmol, 2.074 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-[6-(3-Dimethylaminopropoxy)pyridin-3-yl]-1-(cis-3-methoxycyclobutyl)-3-methylimidazo[4,5-c]quinolin-2-one | 12.50 g, 75% | CN(CCCOC1=CC=C(C=N1)C1=CC=2C3=C(C=NC2C=C1)N(C(N3[C@@H]3C[C@@H](C3)OC)=O)C)C | C26H31N5O3
